US05213709
Then, 2.00 g (11.6 mM) of m-chloroperbenzoic acid was added to a solution of 2.54 g (11.4 mM) of 2-acetyl-9,10-dihydrophenanthrene in 75 ml of dichloromethane at room temperature under stirring to be dissolved therein. To the resultant solution, 1.11 g (11.1 mM) of potassium carbonate was added, followed by heat-refluxing for 2 hours and 10 minutes. After the reaction, the reaction mixture was cooled on an ice bath and poured into 10%-sodium hydrogencarbonate aqueous solution. The resultant organic layer was washed with 5%-sodium hydrogencarbonate aqueous solution, followed by evaporation under reduced pressure to obtain a residue. To the residue, 1.59 g (24.1 mM) of sodium hydride, 25 ml of ethanol and 10 ml of water were added at about 70° C. on a hot water bath, followed by heat-stirring for 0.5 hour. After the reaction, the solvent was distilled-off under reduced pressure from the reaction mixture to obtain a residue. To the residue, 200 ml of water was added and 2.50 ml (28.3 mM) of concentrated hydrochloric acid was further added thereto to precipitate a crystal. The crystal was recovered by filtration and dissolved in ethyl acetate, followed by drying with anhydrous sodium sulfate and distilling-off of the solvent to obtain a crude product. The crude product was purified by silica gel column chromatography (eluent: toluene/ethyl acetate=100/1) to obtain 1.24 g of 2-hydroxy-9,10-dihydrophenanthrene (Yield: 55.3%).

reactant | m-chloroperbenzoic acid | 11.6 mM, 2.00 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 2-acetyl-9,10-dihydrophenanthrene | 11.4 mM, 2.54 g | C(C)(=O)C1=CC=2CCC3=CC=CC=C3C2C=C1 | C16H14O
reactant | potassium carbonate | 11.1 mM, 1.11 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
reactant | sodium hydride | 24.1 mM, 1.59 g | [H-].[Na+]
reactant | hydrochloric acid | 28.3 mM, 2.50 ml | Cl | ClH
solvent | dichloromethane | 75 ml | ClCCl | CH2Cl2
solvent | water | 200 ml | O | H2O
solvent | water | 10 ml | O | H2O
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | 2-hydroxy-9,10-dihydrophenanthrene | 1.24 g, Yield: 55.3% | OC1=CC=2CCC3=CC=CC=C3C2C=C1 | C14H12O
